data/nitro/train.csv
rxn,smiles,ea
840,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])(\[H:23])[C:24]([H:25])([H:26])[H:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])([H:23])[C:24]([H:25])([H:26])[H:27],-11.146335324964111
38,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])([C:21]([H:22])([H:23])[H:24])[C:25]([H:26])([H:27])[H:28]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])([C:21]([H:22])([H:23])[H:24])[C:25]([H:26])([H:27])[H:28],-2.0520538714485537
734,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([c:21]1[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]1[H:31])[c:32]1[c:33]([H:34])[c:35]([H:36])[c:37]([H:38])[c:39]([H:40])[c:41]1[H:42]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([c:21]1[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]1[H:31])[c:32]1[c:33]([H:34])[c:35]([H:36])[c:37]([H:38])[c:39]([H:40])[c:41]1[H:42],3.7063916108783266
710,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])(\[c:31]1[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]([H:39])[c:40]1[H:41])[Br:42]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])([c:31]1[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]([H:39])[c:40]1[H:41])[Br:42],3.674871810178048
472,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32])(\[Br:33])[Cl:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32])([Br:33])[Cl:34],-0.6473632464378176
51,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[Cl:14])(\[C:15]([H:16])([H:17])[H:18])[Cl:19]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Cl:14])([C:15]([H:16])([H:17])[H:18])[Cl:19],-6.319502957882135
461,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])(\[Br:25])[Cl:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])([Br:25])[Cl:26],-18.1166434182334
474,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[Br:13])[Cl:14]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([Br:13])[Cl:14],-12.52174384779367
C7,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])/[C:19]([H:20])=[C:21](/[H:22])[C:23]([H:24])([H:25])[C:26]([H:27])([H:28])[H:29])[H:30]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([C:13]([H:14])([H:15])[C:16]([H:17])([H:18])/[C:19]([H:20])=[C:21](/[H:22])[C:23]([H:24])([H:25])[C:26]([H:27])([H:28])[H:29])[H:30],-12.339053249793324
191,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])(\[C:27]([H:28])([H:29])[H:30])[H:31]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])([C:27]([H:28])([H:29])[H:30])[H:31],-8.71171779260799
668,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])(\[c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38])[Cl:39]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38])[Cl:39],-5.858547048489304
